US07214663B2
In a round bottom flask (25 mL), Fmoc-Met-Ala-Leu-OBn is dissolved in 5 mL of anhydrous DMF. Piperidine is added to the solution and the mixture is stirred at room temperature for 25 minutes. The reaction is quenched with water and extracted with ethyl acetate. The combined organic layer is further washed by water, brine and dried over sodium sulfate. Solid Met-Ala-Leu-OBn is obtained after removal of solvent.

reactant | Piperidine | N1CCCCC1 | C5H11N
reactant | Fmoc-Met-Ala-Leu-OBn | N([C@@H](CCSC)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C36H43N3O6S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Met-Ala-Leu-OBn | N[C@@H](CCSC)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C21H33N3O4S
